### PR TITLE
[Merged by Bors] - feat: `HasProd` on sum types

### PR DESCRIPTION
**Pull request by erdOne**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by erdOne** [comment]
Judging from the "Import changes for all files" tab, the import increase should be fine.

File: Mathlib/Data/Finset/Sum.lean [hunk 1]
```diff
@@ -201,4 +201,12 @@ lemma toRight_union : (u ∪ v).toRight = u.toRight ∪ v.toRight := by ext x; s
 lemma toLeft_sdiff : (u \ v).toLeft = u.toLeft \ v.toLeft := by ext x; simp
 lemma toRight_sdiff : (u \ v).toRight = u.toRight \ v.toRight := by ext x; simp
 
+/-- Finsets on sum types are equivalent to pairs of finsets on each summand. -/
+@[simps apply_fst apply_snd symm_apply]
+def sumEquiv {α β : Type*} : Finset (α ⊕ β) ≃ Finset α × Finset β where
```
Comment (eric-wieser) [inline Mathlib/Data/Finset/Sum.lean:206]: Can you add the `Set` version of this as well?

File: Mathlib/Order/Filter/AtTopBot/Finset.lean [hunk 2]
```diff
@@ -51,4 +52,36 @@ theorem tendsto_finset_preimage_atTop_atTop {f : α → β} (hf : Function.Injec
...
+
+lemma tendsto_sumEquiv_symm_atTop :
+    Tendsto (Finset.sumEquiv (α := α) (β := β)).symm atTop atTop := by
+  rw [Tendsto, ← prod_atTop_atTop_eq,
+    ((atTop_basis.prod atTop_basis).map _).le_basis_iff atTop_basis]
+  rintro s -
+  refine ⟨(s.toLeft, s.toRight), ?_⟩
+  simp +contextual [Set.subset_def, forall_comm (α := Finset (α ⊕ β)), ← Finset.coe_subset]
+
+lemma atTop_map_sumEquiv : atTop.map (Finset.sumEquiv (α := α) (β := β)) = atTop :=
```
Comment (eric-wieser) [inline Mathlib/Order/Filter/AtTopBot/Finset.lean:83]:
```suggestion
@[simp]
lemma atTop_map_sumEquiv : atTop.map (Finset.sumEquiv (α := α) (β := β)) = atTop :=
```

File: Mathlib/Data/Finset/Sum.lean [hunk 3]
```diff
@@ -201,4 +201,17 @@ lemma toRight_union : (u ∪ v).toRight = u.toRight ∪ v.toRight := by ext x; s
...
+def sumEquiv {α β : Type*} : Finset (α ⊕ β) ≃o Finset α × Finset β where
+  toFun s := (s.toLeft, s.toRight)
+  invFun s := disjSum s.1 s.2
+  left_inv s := toLeft_disjSum_toRight
+  right_inv s := by simp
+  map_rel_iff' := by simp [← Finset.coe_subset, Set.subset_def]
+
+@[simp]
+lemma sumEquiv_symm_apply {α β : Type*} (s : Finset α × Finset β) :
+    sumEquiv.symm s = disjSum s.1 s.2 := rfl
```
Comment (b-mehta) [inline Mathlib/Data/Finset/Sum.lean:215]: Can't simps give you this one automatically?

File: Mathlib/Data/Finset/Sum.lean [hunk 4]
```diff
@@ -201,4 +201,17 @@ lemma toRight_union : (u ∪ v).toRight = u.toRight ∪ v.toRight := by ext x; s
 lemma toLeft_sdiff : (u \ v).toLeft = u.toLeft \ v.toLeft := by ext x; simp
 lemma toRight_sdiff : (u \ v).toRight = u.toRight \ v.toRight := by ext x; simp
 
+/-- Finsets on sum types are equivalent to pairs of finsets on each summand. -/
+@[simps apply_fst apply_snd]
+def sumEquiv {α β : Type*} : Finset (α ⊕ β) ≃o Finset α × Finset β where
+  toFun s := (s.toLeft, s.toRight)
+  invFun s := disjSum s.1 s.2
```
Comment (b-mehta) [inline Mathlib/Data/Finset/Sum.lean:208]: nice to see these defs getting some love already!

File: Mathlib/Topology/Algebra/InfiniteSum/Constructions.lean [hunk 5]
```diff
@@ -73,6 +73,27 @@ section ContinuousMul
...
+    convert (tendsto_mul.comp (nhds_prod_eq (x := a) (y := b) ▸ Tendsto.prod_map h₁ h₂))
+    ext s
+    simp
+  simpa [Tendsto, ← Filter.map_map] using this
+
+@[to_additive]
+lemma Multipliable.sum {α β M : Type*} [CommMonoid M] [TopologicalSpace M] [ContinuousMul M]
+    (f : α ⊕ β → M) (h₁ : Multipliable (f ∘ Sum.inl)) (h₂ : Multipliable (f ∘ Sum.inr)) :
+    Multipliable f :=
+  ⟨_, .sum h₁.choose_spec h₂.choose_spec⟩
```
Comment (b-mehta) [inline Mathlib/Topology/Algebra/InfiniteSum/Constructions.lean:93]: IMO it's nicer to do this by breaking h1 and h2 into HasProd rather than choice, but I won't insist on it.

File: Mathlib/Topology/Algebra/InfiniteSum/Constructions.lean [hunk 6]
```diff
@@ -73,6 +73,27 @@ section ContinuousMul
 
 variable [CommMonoid α] [TopologicalSpace α] [ContinuousMul α]
 
+section Sum
+
+@[to_additive]
+lemma HasProd.sum {α β M : Type*} [CommMonoid M] [TopologicalSpace M] [ContinuousMul M]
+    {f : α ⊕ β → M} {a b : M}
+    (h₁ : HasProd (f ∘ Sum.inl) a) (h₂ : HasProd (f ∘ Sum.inr) b) : HasProd f (a * b) := by
```
Comment (b-mehta) [inline Mathlib/Topology/Algebra/InfiniteSum/Constructions.lean:81]: Can we have the tprod version of this too?

**Review by b-mehta — APPROVED** [review]

File: Mathlib/Data/Finset/Sum.lean (hunk 3 above)
Comment (erdOne) [reply Mathlib/Data/Finset/Sum.lean:215]: No it gives `RelEquiv.symm sumEquiv s = _` because `OrderEquiv` is a type synonym.

Comment (b-mehta) [reply Mathlib/Data/Finset/Sum.lean:215]: Oh, that's sad, I wonder if we can adjust the simps setup here to make it work...

File: Mathlib/Topology/Algebra/InfiniteSum/Constructions.lean (hunk 5 above)
Comment (erdOne) [reply Mathlib/Topology/Algebra/InfiniteSum/Constructions.lean]: Is this what you were thinking of?

Comment (b-mehta) [reply Mathlib/Topology/Algebra/InfiniteSum/Constructions.lean]: Yup!

File: Mathlib/Topology/Algebra/InfiniteSum/Constructions.lean [hunk 7]
```diff
@@ -73,6 +73,33 @@ section ContinuousMul
...
+  have : Tendsto ((∏ b ∈ ·, f b) ∘ sumEquiv.symm) (atTop.map sumEquiv) (nhds (a * b)) := by
+    rw [Finset.sumEquiv.map_atTop, ← prod_atTop_atTop_eq]
+    convert (tendsto_mul.comp (nhds_prod_eq (x := a) (y := b) ▸ Tendsto.prod_map h₁ h₂))
+    ext s
+    simp
+  simpa [Tendsto, ← Filter.map_map] using this
+
+@[to_additive]
+lemma Sum.tprod {α β M : Type*} [CommMonoid M] [TopologicalSpace M] [ContinuousMul M] [T2Space M]
```
Comment (b-mehta) [inline Mathlib/Topology/Algebra/InfiniteSum/Constructions.lean:90]: it looks to me like tprod_sum might be a closer name to the others in this file, is that available?

Comment (erdOne) [reply Mathlib/Topology/Algebra/InfiniteSum/Constructions.lean:90]: Yes but the additive version `tsum_sum` is not.

**Review by b-mehta — COMMENTED** [review]
bors d+

File: Mathlib/Topology/Algebra/InfiniteSum/Constructions.lean (hunk 7 above)
Comment (b-mehta) [reply Mathlib/Topology/Algebra/InfiniteSum/Constructions.lean:90]: Hmm, that one's part of a pair tprod_of_prod / tsum_sum, which doesn't quite make sense. I'd say both of those should mention finset somehow, since they're about Finset.prod and Finset.sum, whereas these ones don't.

**Comment by erdOne** [comment]
bors merge
